US08084449B2
A mixture of 6-[({[1,6-diethyl-4-(tetrahydro-2H-pyran-4-ylamino)-1H-pyrazolo[3,4-b]pyridin-5-yl]methyl}amino)carbonyl]-2-pyridinecarboxylic acid (1,000 mg, 2.210 mmol), 1-(3-bromo-4-chlorophenyl)methanamine (487 mg, 2.210 mmol), HBTU (1,006 mg, 2.65 mmol) and Et3N (1.540 mL, 11.05 mmol) in DCM was stirred at room temperature over the weekend. The reaction was quenched with saturated NaHCO3 and extracted with DCM twice. The combined organic layers were washed with brine and then concentrated under vacuum to give the crude residue. It was then purified with flash chromatography eluting with 0 to 100% ethyl acetate in hexane (product came out at 100% ethyl acetate in hexane). The product fractions were combined to give N-[(3-bromo-4-chlorophenyl)methyl]-N′-{[1,6-diethyl-4-(tetrahydro-2H-pyran-4-ylamino)-1H-pyrazolo[3,4-b]pyridin-5-yl]methyl}-2,6-pyridinedicarboxamide (1,100 mg, 41%). LC-MS m/z 654.4 (M+H)+, 0.93 min (ret time).

reactant | 6-[({[1,6-diethyl-4-(tetrahydro-2H-pyran-4-ylamino)-1H-pyrazolo[3,4-b]pyridin-5-yl]methyl}amino)carbonyl]-2-pyridinecarboxylic acid | 2.210 mmol, 1,000 mg | C(C)N1N=CC=2C1=NC(=C(C2NC2CCOCC2)CNC(=O)C2=CC=CC(=N2)C(=O)O)CC | C23H28N6O4
reactant | 1-(3-bromo-4-chlorophenyl)methanamine | 2.210 mmol, 487 mg | BrC=1C=C(C=CC1Cl)CN | C7H7BrClN
reactant | HBTU | 2.65 mmol, 1,006 mg | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=C2)N=N1.F[P-](F)(F)(F)(F)F
reactant | Et3N | 11.05 mmol, 1.540 mL | CCN(CC)CC | C6H15N
solvent | DCM | C(Cl)Cl | CH2Cl2
product | N-[(3-bromo-4-chlorophenyl)methyl]-N′-{[1,6-diethyl-4-(tetrahydro-2H-pyran-4-ylamino)-1H-pyrazolo[3,4-b]pyridin-5-yl]methyl}-2,6-pyridinedicarboxamide | 1,100 mg, 41% | BrC=1C=C(C=CC1Cl)CNC(=O)C1=NC(=CC=C1)C(=O)NCC=1C(=C2C(=NC1CC)N(N=C2)CC)NC2CCOCC2 | C30H33BrClN7O3
